US20010027196A1
2-Amino-4-furan-2-yl-6-[2-(5-nitro-pyridin-2-ylamino)-ethylamino]-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and 2-(2-aminoethylamino)-5-nitropyridine in DME. ES-MS m/e (%): 389 (M+Na+, 15), 367 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 2-(2-aminoethylamino)-5-nitropyridine | NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C7H10N4O2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-[2-(5-nitro-pyridin-2-ylamino)-ethylamino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C16H14N8O3
